US07981883B2
10. Synthesis of 2-methylenedecahydronaphthalene
Methyltriphenylphosphonium bromide (89.2 g, 249 mmol) was placed in abs. diethyl ether (800 ml) under a nitrogen atmosphere. At 0° C. potassium tert-butylate (34 g, 295 mmol) was slowly added. After 30 min octahydronaphthalen-2-one (25 g, 164 mmol) as a solution in diethyl ether (500 ml) was slowly added dropwise, again at 0° C. The reaction mixture was stirred overnight at RT. For working up, the reaction mixture was cooled in an ice bath and mixed with sat. aq. NH4Cl solution. The phases were separated and the aqueous phase was shaken out several times with EtOAc. The combined organic phases were dried over magnesium sulphate and the solvent was removed under vacuum. The residue was taken up in hexane/ether 1:1, removed by suction-filtration and the residue washed with hexane/ether 1:1. The filtrate was concentrated and the residue also removed by suction-filtration. The desired compound 2-methylenedecahydronaphthalene was obtained as a solid (16.3 g, 66% of the theoretical amount).

reactant | potassium tert-butylate | 295 mmol, 34 g | CC(C)(C)[O-].[K+]
reactant | octahydronaphthalen-2-one | 164 mmol, 25 g | C1C(CCC2CCCCC12)=O | C10H16O
reactant | NH4Cl | [NH4+].[Cl-]
catalyst | Methyltriphenylphosphonium bromide | 249 mmol, 89.2 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 800 ml | C(C)OCC | C4H10O
product | 2-methylenedecahydronaphthalene | C=C1CC2CCCCC2CC1 | C11H18
